US05430150
N-L-Valyl-L-valine methyl ester
The title compound is prepared by the procedure of Example 7 using 0.50 g of L-valine-L-valine, 10 ml of methyl alcohol and 0.689 ml of trimethylsilyl chloride to give 0,657 g of the desired product.

reactant | L-valine L-valine | 0.50 g | N[C@@H](C(C)C)C(=O)O.N[C@@H](C(C)C)C(=O)O | 2C5H11NO2
reactant | trimethylsilyl chloride | 0.689 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | methyl alcohol | 10 ml | CO | CH4O
product | N-L-Valyl-L-valine methyl ester | 0,657 g | COC([C@@H](NC([C@@H](N)C(C)C)=O)C(C)C)=O | C11H22N2O3
